US04001339
2-thionaphthol is reacted with 1-bromo-3,7-dimethyl-octa-2,6-diene to produce 3,7-dimethyl-octa-2,6-dienyl 2-naphthyl sulphide (boiling point = 138° C/0.25 mmHg;

reactant | 2-thionaphthol | C1=CC=C2C=C(C=CC2=C1)S | C10H8S
reactant | 1-bromo-3,7-dimethyl-octa-2,6-diene | BrCC=C(CCC=C(C)C)C | C10H17Br
product | 3,7-dimethyl-octa-2,6-dienyl 2-naphthyl sulphide | C1=C(C=CC2=CC=CC=C12)SCC=C(CCC=C(C)C)C | C20H24S
